US05013741
N-Phenylmethylene-1,2,3,4-tetrahydro-9-acridinamine
1,2,3,4-Tetrahydro-9-acridinamine (4.0 g) was dissolved in 400 ml of warm toluene and then morpholine (3.5 g) and benzaldehyde1 (2.65 g) were added and the reaction mixture was brought to reflux with a Dean-Stark water separator. After the solution was refluxed overnight an additional 2.65 g of benzaldehyde was added and reflux was continued an additional five (5) hours. At the end of this time the volatiles were removed under reduced pressure and the residue was purified by flash chromatography (EtOAc) to give 3.18 g of pure porduct after trituration with Et2O. Analytically pure material was obtained by recrystallization from cyclohexane, m.p. 168°-169° C.

reactant | 1,2,3,4-Tetrahydro-9-acridinamine | 4.0 g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | morpholine | 3.5 g | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
reactant | benzaldehyde | 2.65 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | C1CCCCC1 | C6H12
product | N-Phenylmethylene-1,2,3,4-tetrahydro-9-acridinamine | C1(=CC=CC=C1)C=NC=1C2=CC=CC=C2N=C2CCCCC12 | C20H18N2
